US05132328
3-(Naphth-2-ylmethoxy)benzaldehyde [prepared by the alkylation of 3-hydroxybenzaldehyde with 2-bromomethylnaphthalene in the presence of potassium carbonate] was treated with isopropoxydimethysilylmethylmagnesium chloride using the procedure described in the portion of Example 1 which is concerned with the preparation of starting materials. After the oxidation step described therein there was obtained 2-[3-(naphth-2-ylmethoxy)phenyl]ethane-1,2-diol, m.p. 121°-122° C.

reactant | 3-(Naphth-2-ylmethoxy)benzaldehyde | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=O)C=CC1 | C18H14O2
reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isopropoxydimethysilylmethylmagnesium chloride | C(C)(C)O[Mg]C[SiH](C)C.[Cl-]
product | 2-[3-(naphth-2-ylmethoxy)phenyl]ethane-1,2-diol | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CO)O | C19H18O3
